US05081131
N-(3-(1H-indazol-1-yl)propyl)benz(cd) indol-2-amine formate
A solution of 5.4 grams of N-(3-aminopropyl)indazole in 400 ml of ethanol was treated with 6.0 grams of benz(cd)indole-2-thione and then 11.0 grams of mercuric acetate. The mixture was then stirred under reflux for 8 hours. The black slurry was cooled to room temperature and treated with 7.5 ml of 10N sodium hydroxide. The reaction was filtered through a bed of celite, and the filtrate then concentrated to dryness in vacuo. The residue was partitioned between 250 ml of dichloromethane and 150 ml of water. The dichloromethane layer was concentrated to dryness. The residue was dissolved in 200 ml of acetone and the solution added to a stirred boiling solution of 6.0 grams of fumaric acid in 1200 ml of acetone. A precipitate formed at once. The reaction mixture was stirred at room temperature for two hours, the precipitate collected and dried. It melted at 163°-165° C. with decomposition.

reactant | N-(3-aminopropyl)indazole | 5.4 grams | NCCCN1N=CC2=CC=CC=C12 | C10H13N3
reactant | benz(cd)indole-2-thione | 6.0 grams | N1C(C2=C3C(C=CC=C13)=CC=C2)=S | C11H7NS
reactant | sodium hydroxide | 10N, 7.5 ml | [OH-].[Na+]
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | N-(3-(1H-indazol-1-yl)propyl)benz(cd) indol-2-amine formate | C(=O)O.N1(N=CC2=CC=CC=C12)CCCNC1=NC2=CC=CC=3C2=C1C=CC3 | InChI=1S/C21H18N4.CH2O2/c1-2-11-19-16(6-1)14-23-25(19)13-5-12-22-21-17-9-3-7-15-8-4-10-18(24-21)20(15)17;2-1-3/h1-4,6-11,14H,5,12-13H2,(H,22,24);1H,(H,2,3)
